US09326516B2
(S)-1-(2-Hydroxy-1-phenylethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea (C9)
The title compound was prepared with (S)-2-amino-2-phenylethanol and 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole and isolated as an off-white solid (0.300 g, 73%): mp 125-128° C.; 1H NMR (400 MHz, CD3OD) δ 9.14 (s, 1H), 8.13 (d, J=8.3 Hz, 2H), 8.04 (d, J=8.8 Hz, 2H), 7.64 (d, J=8.3 Hz, 2H), 7.51 (d, J=8.7 Hz, 2H), 7.43-7.35 (m, 4H), 7.30-7.27 (m, 1H), 5.64 (s, 1H), 3.94-3.86 (m, 2H) (NH, OH not observed); ESIMS m/z 500 ([M+H]+).

reactant | (S)-2-amino-2-phenylethanol | N[C@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | 3-(4-isothiocyanato-phenyl)-1-(4-trifluoromethoxy-phenyl)-1H-1,2,4-triazole | N(=C=S)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C16H9F3N4OS
product | (S)-1-(2-Hydroxy-1-phenylethyl)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)thiourea | OC[C@H](C1=CC=CC=C1)NC(=S)NC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C24H20F3N5O2S
